US05891871
7,8-Methylenedioxy-1-(4-ureidophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
To a solution of 1-(4-aminophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one (119 mg, 0.403 mmol) in acetic acid (2 mL) was added NaOCN (38 mg, 0.58 mmol) at room temperature. The mixture was stirred at room temperature for 4 h, diluted with EtOAc (80 mL), washed with 2 N NaOH, water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography to afford the title compound as a yellow solid (40 mg, 0.12 mmol, 30%), mp: 238°-241° C. 1H NMR (DMSO-d6) 10.79 (s, 1H), 8.77 (s, 1H), 7.47 (d, J=8.7, 2H), 7.40 (d, J=8.7, 2H), 7.07 (s, 1H), 6.61 (s, 1H), 6.10 (s, 2H), 5.95 (s, 2H), 3.33 (s, 2H).

reactant | 1-(4-aminophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.403 mmol, 119 mg | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O | C16H13N3O3
reactant | NaOCN | 0.58 mmol, 38 mg | O([Na])C#N
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | 7,8-Methylenedioxy-1-(4-ureidophenyl)-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | 0.12 mmol, 40 mg, 30% | C1OC=2C(=CC3=C(CC(NN=C3C3=CC=C(C=C3)NC(=O)N)=O)C2)O1 | C17H14N4O4
